US06297180B1
Vanadium Oxide-Silicon Dioxide Glass
10 ml of tetraethoxysilane (TEOS), 1.2 g of vanadyl acetyl-acetonate (O═V(AcAc)2) and 8 ml of ethanol are successively dissolved into one another, and 2 ml of 8 n HCl are added under stirring. Once the gel formation has been completed, the material is heated to 65° C. at a heating rate of 0.5° C./min, is maintained at 65° C. for 3 h, is heated to 250° C. at a heating rate of 0.2° C./min, and is calcinated at this temperature for another 3 h. The adsorption/desorption isotherms show that the material has a true monomodal distribution of the micropores; BET: 542 m2/g; pore diameter: 0.66 nm.

reactant | tetraethoxysilane | 10 ml | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
reactant | vanadyl acetyl-acetonate | 1.2 g | C/C(=C\C(=O)C)/O.C/C(=C\C(=O)C)/O.O=[V]
reactant | HCl | Cl | ClH
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | Vanadium Oxide Silicon Dioxide | [O-2].[V+5].[O-2].[O-2].[O-2].[O-2].[V+5].[Si](=O)=O | InChI=1S/O2Si.5O.2V/c1-3-2;;;;;;;/q;5*-2;2*+5
